US05985905
(±)(1-methyl-2-pyrrolidon-3-yl)triphenylphosphonium bromide
A solution of (±)3-bromo-1-methyl-2-pyrrolidone (1.40 g, 7.86 mmol) and triphenylphosphine (2 g, 7.62 mmol) in THF (50 ml) was refluxed for 2 days. After cooling to RT the white solid formed was filtered, washed thoroughly with THF and dried to give pure title compound (900 mg, 2.04 mmol, yield 26.8%).

reactant | (±)3-bromo-1-methyl-2-pyrrolidone | 7.86 mmol, 1.40 g | BrC1C(N(CC1)C)=O | C5H8BrNO
reactant | triphenylphosphine | 7.62 mmol, 2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (±)(1-methyl-2-pyrrolidon-3-yl)triphenylphosphonium bromide | 2.04 mmol, 900 mg, yield 26.8% | [Br-].CN1C(C(CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C23H23NOP.BrH/c1-24-18-17-22(23(24)25)26(19-11-5-2-6-12-19,20-13-7-3-8-14-20)21-15-9-4-10-16-21;/h2-16,22H,17-18H2,1H3;1H/q+1;/p-1
